2133-11-22 00:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient admitted
   Started amio
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2133-11-21**] 11:19 PM
   Heparin Sodium (Prophylaxis) - [**2133-11-21**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-11-22**] 12:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 73 (54 - 73) bpm
   BP: 133/57(75) {129/52(71) - 136/66(80)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     61 mL
                                                                     18 mL
   PO:
             TF:
   IVF:
                                                                     61 mL
                                                                     18 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     61 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-11-21**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2133-11-21**] 11:19 PM
   Heparin Sodium (Prophylaxis) - [**2133-11-21**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-11-22**] 12:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 73 (54 - 73) bpm
   BP: 133/57(75) {129/52(71) - 136/66(80)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     61 mL
                                                                     21 mL
   PO:
             TF:
   IVF:
                                                                     61 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     61 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-11-21**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-11-22 07:55:00 Physician Resident Progress Note
Chief Complaint: Mr [**Known lastname 2633**] is a 76 year old man with history of
   hypertension, hyperlipidemia and CAD, s/p DES to LAD, presenting with
   worsening dyspnea on exertion, lower extremity edema and atrial
   bigeminy with NSVT.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2133-11-21**] 11:19 PM
   Heparin Sodium (Prophylaxis) - [**2133-11-21**] 11:20 PM
   Other medications:
   Magnesium Sulfate  IV Sliding Scale
   Atorvastatin 20 mg PO DAILY
   Metoprolol Tartrate 12.5 mg PO BID
   Terazosin 2 mg PO HS
   Docusate Sodium 100 mg PO BID
   Aspirin 325 mg PO DAILY
   Amiodarone 400 mg PO BID Start: In am
   Amiodarone 0.5 mg/min IV INFUSION
   Heparin 5000 UNIT SC TID
   Senna 1 TAB PO BID:PRN
   Bisacodyl 10 mg PO/PR DAILY:PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-11-22**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 70 (53 - 73) bpm
   BP: 130/70(83) {113/41(59) - 148/70(92)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     61 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                     61 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,250 mL
   Urine:
   1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     61 mL
                                                                 -1,074 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: JVD to mandible
   Cardiovascular: (S2: Normal), irregular rate
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   12.0 g/dL
   96 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   21 mg/dL
   106 mEq/L
   140 mEq/L
   33.1 %
   6.8 K/uL
        [image002.jpg]
                            [**2133-11-22**]  02:16 AM
   WBC
   6.8
   Hct
   33.1
   Plt
   134
   Cr
   1.5
   TropT
   0.02
   Glucose
   96
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:102/4/0.02, Differential-Neuts:64.6 %, Lymph:27.7 %,
   Mono:4.7 %, Eos:2.7 %, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr [**Known lastname 2633**] is a 76 year old man with history of hypertension,
   hyperlipidemia and CAD, s/p DES to LAD, presenting with worsening
   dyspnea on exertion, lower extremity edema and atrial bigeminy with
   NSVT.
   .
   # Dizziness / NSVT : Given findings of bradycardia and NSVT, most
   likely cause of symptoms is hypoperfusion. Although [**Location (un) 250**]
   documentation reports bradycardia however, it is noted that there is a
   discrepance  between pulse and electrocardiographically recorded rate;
   this is likely secondary to bigeminy which prevents differentiation of
   the two closely spaced beats and dose not represent true bradycardia.
   <br>
   Regarding VT/NSVT, given history of three vessel disease, it is likely
   that this represents new ischemic event, likely silent and subacute
   leading to left ventricular scar given right bundle morphology of VT.
   <br>
   Differential for new VT includes scar mediated as above, as well as
   ischemic, electrolyte disorders and medication side effects. Admission
   labs however seems to point away from active ischemia and electrolyte
   disorders as etiology.
   -- Rule out for MI with serial enzmes
   -- ECHO Tuesday
   -- Continue Amiodarone, finish IV load overnight
   -- Obtain TFT's, LFT's.
   -- Continue aspirin
   -- Continue beta blocker given concern for ischemia, although at
   reduced dose given amiodarone load.
   -- Anticipate cardiac catheterization monday.
   -- Diuresis
   .
   # RIGHT VENTRICULAR SYSTOLIC FAILURE: Physical exam suggestive of right
   sided volume overload without significant pulmonary edema, although
   hilar lymphadenopathy suggests some chronic congestion. Possible
   unifying diagnosis to consider is recent ischemic event leading to
   symptomatic systolic heart failure as well as scar formation.
   -- ECHO as above
   -- IV Lasix, start with 10mg IV given pt is lasix naive
   -- Rule out MI as above
   -- Goal 1L negative overnight
   .
   # Chronic Renal Failure: Unclear what patien't baseline is currently,
   although [**Location (un) 250**] labs with creatinine of 1.6 in [**2131**].
   -- Avoid nephrotoxic medications
   -- Monitor closely
   .
   # Hypertension: Hold amlodipine at this time, would favor using ACEI
   given concern for both excessive nodal agents and new systolic heart
   failure.
   .
   # GOUT: Not active at this time.
   .
   # ALCOHOL USE: Although low concern for abuse, given age withdrawal at
   low doses is possible.
   -- Monitor closely
   -- Although would consider benzos if patient is agitated, would avoid
   them for now given concern for delirium.
   .
   FEN: Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SC Heparin
   -Pain managment with Tylenol
   -Bowel regimen
   CODE: Full
   DISPO: CCU for now.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-11-21**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-11-23 04:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-11-22**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-11-23**] 04:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 51 (51 - 83) bpm
   BP: 127/47(67) {113/47(67) - 166/101(118)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,789 mL
                                                                     50 mL
   PO:
                                                                  1,280 mL
             TF:
   IVF:
                                                                    509 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                      0 mL
   Urine:
                                                                  2,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   12.0 g/dL
   122 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   24 mg/dL
   106 mEq/L
   139 mEq/L
   33.1 %
   6.8 K/uL
        [image002.jpg]
                            [**2133-11-22**]  02:16 AM
                            [**2133-11-22**]  09:07 AM
                            [**2133-11-22**]  05:30 PM
   WBC
   6.8
   Hct
   33.1
   Plt
   134
   Cr
   1.5
   1.5
   1.6
   TropT
   0.02
   0.02
   Glucose
   96
   122
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:95/4/0.02, ALT / AST:37/28, Alk Phos / T Bili:68/0.9,
   Amylase / Lipase:/19, Differential-Neuts:64.6 %, Lymph:27.7 %, Mono:4.7
   %, Eos:2.7 %, Albumin:3.9 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr [**Known lastname 2633**] is a 76 year old man with history of hypertension,
   hyperlipidemia and CAD, s/p DES to LAD, presenting with worsening
   dyspnea on exertion, lower extremity edema and atrial bigeminy with
   NSVT.
   .
   # Dizziness / NSVT : Given findings of bradycardia and NSVT, most
   likely cause of symptoms is hypoperfusion. Although [**Location (un) 250**]
   documentation reports bradycardia however, it is noted that there is a
   discrepance  between pulse and electrocardiographically recorded rate;
   this is likely secondary to bigeminy which prevents differentiation of
   the two closely spaced beats and dose not represent true bradycardia.
   <br>
   Regarding VT/NSVT, given history of three vessel disease, it is likely
   that this represents new ischemic event, likely silent and subacute
   leading to left ventricular scar given right bundle morphology of VT.
   <br>
   Differential for new VT includes scar mediated as above, as well as
   ischemic, electrolyte disorders and medication side effects. Admission
   labs however seems to point away from active ischemia and electrolyte
   disorders as etiology.
   -- Rule out for MI with serial enzmes
   -- ECHO Tuesday
   -- Continue Amiodarone, finish IV load overnight
   -- Obtain TFT's, LFT's.
   -- Continue aspirin
   -- Continue beta blocker given concern for ischemia, although at
   reduced dose given amiodarone load.
   -- Anticipate cardiac catheterization monday.
   -- Diuresis
   .
   # RIGHT VENTRICULAR SYSTOLIC FAILURE: Physical exam suggestive of right
   sided volume overload without significant pulmonary edema, although
   hilar lymphadenopathy suggests some chronic congestion. Possible
   unifying diagnosis to consider is recent ischemic event leading to
   symptomatic systolic heart failure as well as scar formation.
   -- ECHO as above
   -- IV Lasix, start with 10mg IV given pt is lasix naive
   -- Rule out MI as above
   -- Goal 1L negative overnight
   .
   # Chronic Renal Failure: Unclear what patien't baseline is currently,
   although [**Location (un) 250**] labs with creatinine of 1.6 in [**2131**].
   -- Avoid nephrotoxic medications
   -- Monitor closely
   .
   # Hypertension: Hold amlodipine at this time, would favor using ACEI
   given concern for both excessive nodal agents and new systolic heart
   failure.
   .
   # GOUT: Not active at this time.
   .
   # ALCOHOL USE: Although low concern for abuse, given age withdrawal at
   low doses is possible.
   -- Monitor closely
   -- Although would consider benzos if patient is agitated, would avoid
   them for now given concern for delirium.
   .
   FEN: Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SC Heparin
   -Pain managment with Tylenol
   -Bowel regimen
   CODE: Full
   DISPO: CCU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-11-21**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: